US07338959B2
N5-{2-[4-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 4-(2-methanesulfonyl-ethyl)-phenylamine (50 mg, 0.25 mmol) as a white solid (81 mg, 55%). 1H NMR (300 MHz, d6-DMSO) δ 10.09 (s, 1H), 8.87 (s, 1H), 7.84 (d, J=6.9 Hz, 1H), 7.48-7.61 (m, 5H), 7.36-7.40 (m, 3H), 7.20-7.31 (m, 4H), 5.82 (d, J=5.7 Hz, 1H), 5.09 (m, 1H), 3.74 (s, 3H), 3.47 (s, 3H), 3.37-3.42 (M, 2H), 2.94-2.99 (M, 5H), 1.63 (d, J=6.6 Hz, 3H). MS (ESI) m/z=556 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 4-(2-methanesulfonyl-ethyl)-phenylamine | 0.25 mmol, 50 mg | CS(=O)(=O)CCC1=CC=C(C=C1)N | C9H13NO2S
product | N5-{2-[4-(2-Methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-N2-(1-phenyl-ethyl)-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.CS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C2=CC=CC=C2)C)C=C1)C | InChI=1S/C30H33N7O2S.ClH/c1-21(23-8-6-5-7-9-23)32-30-34-26-20-25(14-15-27(26)37(30)3)36(2)28-16-18-31-29(35-28)33-24-12-10-22(11-13-24)17-19-40(4,38)39;/h5-16,18,20-21H,17,19H2,1-4H3,(H,32,34)(H,31,33,35);1H
